US05656642
0.5 g of 5% palladium carbon was added to a solution of 11 g of benzyl 4-(1,2,4-triazol-1-yl)butyrate in 150 ml of ethanol. The mixture was stirred at a hydrogen pressure of 1 atm. at room temperature for 1 hour. Thereto was added 100 ml of ethanol. The mixture was heated and made uniform. Palladium carbon was collected by filtration and washed with ethanol. The filtrate and the washings were combined and concentrated under reduced pressure. To the residue was added a small amount of ethanol. The resulting insolubles were collected by filtration to obtain 6.2 g of 4-(1,2,4-triazol-1-yl)butyric acid as a white powder.

reactant | benzyl 4-(1,2,4-triazol-1-yl)butyrate | 11 g | N1(N=CN=C1)CCCC(=O)OCC1=CC=CC=C1 | C13H15N3O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium carbon | 0.5 g | [C].[Pd]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(1,2,4-triazol-1-yl)butyric acid | 6.2 g | N1(N=CN=C1)CCCC(=O)O | C6H9N3O2
